US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(2,4-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
2-[1-(2,4-Dimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (343 mg, 0.68 mmol) was dissolved in THF (8 mL) and the 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (170 mg, 0.71 mmol, 1.04 eq.), potassium carbonate (200 mg, 1.45 mmol, 2.1 eq.), and water (2 mL) were added and the solution was heated at reflux for 16 hours. The solution was concentrated in vacuo and the aqueous phase was extracted with dichloromethane, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (40 g) with a gradient of ethyl acetate to 6% methanol in dichloromethane to give 151 mg (36%) of the title compound.

reactant | 2-[1-(2,4-Dimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.68 mmol, 343 mg | COC1=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCCS(=O)(=O)[O-])C=CC(=C1)OC
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.71 mmol, 170 mg, 1.04 eq. | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | potassium carbonate | 1.45 mmol, 200 mg, 2.1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(2,4-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 151 mg, 36% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C33H37Cl2N3O4
